US05777184
3,3,3-Trifluoropropenyl acetate (7.1. g) was hydrogenated in a glass pressure bottle overnight at 65°-70° C. using 0.1 g 10% Pd/C as catalyst and a maximum H2 pressure of 35 psi. The catalyst was separated by centrifugation, providing 6.7 g of 97% pure CF3CH2CH2OAc (93% yield). Bp 112°-113° C. [lit. 112° C.; B. T. Golding, P. J. Sellars, and W. P. Watson, J. Fluorine Chem., 30 (1985) 153]. 1H NMR: δ4.29 (t, 2 H, J=6.4 Hz), 2.4 (m, 2 H), 2.07 (s, 3H). 19F NMR: δ-65.8 (t, J=10.4 Hz).

reactant | 3,3,3-Trifluoropropenyl acetate | C(C)(=O)OC=CC(F)(F)F | C5H5F3O2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | CF3CH2CH2OAc | 6.7 g, 93% yield | C(F)(F)(F)CCOC(=O)C | C5H7F3O2
